US07691882B2
3-(3-(4-(Pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a mixture of 4-(5-(2-amino-pyridin-3-yl)isoxazol-3-ylmethyl)-phenol (4.2 mg, 0.016 mmol) described in Manufacturing Example 5-1-1 and methanol (0.4 mL) was added 1 N aqueous sodium hydroxide solution (16 μL, 0.016 mmol), which was then concentrated under a reduced pressure. To a mixture of the residue and N,N-dimethylformamide (0.5 mL) was added 2-picolyl chloride (3.1 mg, 0.019 mmol), which was stirred for 2 hours at room temperature. The reaction mixture was purified as is by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (3.6 mg, 39%) as a ditrifuoracetic acid salt.

reactant | 4-(5-(2-amino-pyridin-3-yl)isoxazol-3-ylmethyl)-phenol | 0.016 mmol, 4.2 mg | NC1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
reactant | sodium hydroxide | 0.016 mmol, 1 N, 16 μL | [OH-].[Na+]
reactant | 2-picolyl chloride | 0.019 mmol, 3.1 mg | N1=C(C=CC=C1)CCl | C6H6ClN
solvent | methanol | 0.4 mL | CO | CH4O
product | 3-(3-(4-(Pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 3.6 mg, 39% | N1=C(C=CC=C1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H18N4O2
